Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
left thyroid mass
 
Major Surgical or Invasive Procedure:
left hemi-thyroidectomy
 
History of Present Illness:
Ms. ___ is a ___ yoF who presented with a progressively 
growing left thyroid nodule and recent difficulty in swallowing 
and a sensation of neck pressure. The thyroid nodule has been 
followed for the last couple of years. ___ ultrasound showed 
a solid nodule replacing the left thyroid lobe measuring 4.8 cm 
in greatest diameter. An U/S-guided FNAB showed cytology that 
was most likely benign, consistent with a mixed micro- and 
macrofollicular lesion. The pt is clinically and biochemically 
(TSH, T3, T4 normal) euthyroid. No cervical lymphadenopathy was 
present.
 
Past Medical History:
DM2, HTN, MI approx. ___ years ago, hypercholesterolemia, goiter, 
obestiy, MI and stent placed approximately ___ years ago

 
Social History:
___
Family History:
NC
 
Physical Exam:
Gen: NAD, AAOx3
HEENT: atraumatic, normocephalic, no cervical lymphadenopathy, 
incision CDI with no erythema or swelling
CV: RRR, S1 S2
Pulm: CTAB
GI: soft, NT, ND, +BS
Extrem: warm, well-perfused

 
Pertinent Results:
none
 
Brief Hospital Course:
Patient had a preop diagnosis of left thyroid nodule likely 
benign presenting with some compressive symptoms. The patient 
was seen and evaluated by anesthesia. After obtaining anesthesia 
approval, she was taken to the OR and left hemi-thyroidectomy 
was performed with general anesthesia. The patient tolerated the 
procedure well, was extubated, taken to the PACU, and after 
recovery, she was brought to the floors. Post-operatively the 
patient did well. She denied perioral numbness/tingling, pain 
controlled. While on the floor, the patient was transitioned to 
oral pain meds and regular diet. VS remained stable during the 
whole course. After verifying that the pt could ambulate, pt was 
then discharged to home.
 
Medications on Admission:
ASA, Plavix, insulin, oral diabetes medication (name and dosages 
not in chart)

 
Discharge Medications:
1. hydrocodone-acetaminophen ___ mg Tablet Sig: One (1) Tablet 
PO Q4H (every 4 hours) as needed for pain.
Disp:*30 Tablet(s)* Refills:*0*
2. clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily): wait 2 days before restarting.  
3. aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
4. ibuprofen 600 mg Tablet Sig: One (1) Tablet PO Q8H (every 8 
hours) as needed for pain.  
5. Colace 100 mg Capsule Sig: One (1) Capsule PO twice a day: 
Please take while using Vicodin to avoid constipation.
Disp:*60 Capsule(s)* Refills:*2*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
left thyroid nodule
 
Discharge Condition:
Ambulatory, baseline mental status. Stable.

 
Discharge Instructions:
You were admitted to the general surgery inpatient after your 
total thyroidectomy. Your tissue was sent to pathology and you 
should have your results in 1 week. Please monitor your neck 
incision for any drainage, swelling or redness. You have steri 
strips on your neck incision, please keep clean and dry. These 
steri-strips will fall off on their own, please do not remove 
them. You may shower but avoid swimming or bathing. You will be 
given a prescription for Vicodin for pain. Each Vicodin tablet 
contains 5mg Hydrocodone and 500mg acetaminophen (Tylenol). 
Please do not drink alcohol or drive while taking this 
medication as it may cause drowsiness. Do not take more than 
4000 mg of acetaminophen (Tylenol) in a 24 hour period.  
Please wait 2 days before restarting plavix.
 
Followup Instructions:
___